US07504513B2
In a similar manner as described for Example 26, 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester (40 mg, 0.1 mmol) and 2,3-difluorophenylboronic acid (23.7 mg, 0.15 mmol) gave 4-(2,3-Difluoro-phenyl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid (16.2 39%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 13.81 (br.s., 1 H); 8.83 (s, 1 H); 7.74 (s, 1 H); 7.52-7.64 (m, 2 H); 7.40 (s, 1 H); 7.33-7.39 (m, 1 H); 3.85 (s, 3 H); 3.83 (s, 3 H). MS m/z 418 (M+1).

reactant | 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester | 0.1 mmol, 40 mg | COC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C(=C2)OC)OC)Br | C14H12BrN3O4S
reactant | 2,3-difluorophenylboronic acid | 0.15 mmol, 23.7 mg | FC1=C(C=CC=C1F)B(O)O | C6H5BF2O2
product | 4-(2,3-Difluoro-phenyl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid | 39% | FC1=C(C=CC=C1F)C=1N=C(SC1C(=O)O)N1C=NC2=C1C=C(C(=C2)OC)OC | C19H13F2N3O4S
